US07135480B2
3-Cyano-1-(4-methoxy-benzoyl)-pyrrolo[1,2-a]quinoline
The title compound was prepared from 1-(4-methoxy-phenacyl)-quinolinium bromide (110 mg, 0.307 mmol), tetrapyridinecobalt(II) dichromate (202 mg, 0.332 mmol), sodium bicarbonate (66.2 mg, 0.788 mmol), acrylonitrile (110 μL, 1.67 mmol), and N,N-dimethylformamide (2.0 mL), similar to Example 1b, and yielded 26.6 mg (26%) as a yellow solid. 1H NMR (CDCl3): 8.08 (dd, J=9.15, 2.20 Hz, 2H), 8.02 (d, J=8.52 Hz, 1H), 7.83 (dd, J=7.55, 1.78 Hz, 1H), 7.70 (d, J=9.34 Hz, 1H), 7.66 (d, J=9.06 Hz, 1H), 7.59 (td, J=7.83, 1.83 Hz, 1H), 7.52 (td, J=7.48, 1.19 Hz, 1H), 7.38 (s, 1H), 7.05 (dd, J=9.25, 2.33 Hz, 2H), 3.94 (s, 3H).

reactant | 1-(4-methoxy-phenacyl)-quinolinium bromide | 0.307 mmol, 110 mg | [Br-].COC1=CC=C(C(C[N+]2=CC=CC3=CC=CC=C23)=O)C=C1
reactant | dichromate | 0.332 mmol, 202 mg | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-]
reactant | sodium bicarbonate | 0.788 mmol, 66.2 mg | C([O-])(O)=O.[Na+]
reactant | acrylonitrile | 1.67 mmol, 110 μL | C(C=C)#N | C3H3N
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 3-Cyano-1-(4-methoxy-benzoyl)-pyrrolo[1,2-a]quinoline | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)OC)=O | C21H14N2O2
